US06335353B1
1,6-Dimethyl-2-(1-ethoxyethyl)-3-hydroxy-pyridin-4(1H)-one hydrochloride
1,6-Dimethyl-2-(1-ethoxymethyl)-3-benzyloxy-pyridin4(1H)-one (3.65 g, 12 mmol) was dissolved in 40 ml of ethanol and adjusted to pH 1 with concentrated hydrochloric acid prior to hydrogenolysis for 4 hours in the presence of 5% Pd/C catalyst (0.8 g). Filtration followed by rotary evaporation gave the crude product as a white solid. Recrystallization from ethanol/diethyl ether gave the pure title compound (2.48 g, 83.3%) as a white crystalline solid. m.p. 195-199° C.

reactant | 1,6-Dimethyl-2-(1-ethoxymethyl)-3-benzyloxy-pyridin4(1H)-one | 12 mmol, 3.65 g | CN1C(=C(C(C=C1C)=O)OCC1=CC=CC=C1)COCC | C17H21NO3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 40 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.8 g | [Pd] | Pd
product | 1,6-Dimethyl-2-(1-ethoxyethyl)-3-hydroxy-pyridin-4(1H)-one hydrochloride | 2.48 g, 83.3% | Cl.CN1C(=C(C(C=C1C)=O)O)C(C)OCC | InChI=1S/C11H17NO3.ClH/c1-5-15-8(3)10-11(14)9(13)6-7(2)12(10)4;/h6,8,14H,5H2,1-4H3;1H
